US06627651B1
To 7-(4-methylphenyl)-2,3,4,5-tetrahydro-1-benzooxepin-5-one (1 g) dissolved in ethanol (50 ml) was added under ice cooling sodium borohydride (0.3 g). The resulting mixture was stirred at room temperature for 30 minutes, was mixed with water and was concentrated. The residue was extracted with ethyl acetate, and the organic layer was washed with water and was then concentrated. To the residue dissolved in bis(2-methoxyethyl)ether (20 ml) was added hydrochloric acid (5 ml), and the resulting mixture was stirred with heating at 75° C. for one hour. The reaction mixture was poured into water and was extracted with ethyl acetate. The organic layer was washed with water and an aqueous saturated solution of sodium chloride, was then dried with anhydrous magnesium sulfate and was evaporated to remove the solvent. The precipitate was collected by filtration using hexane to obtain 7-(4-methylphenyl)-2,3-dihydro-1-benzooxepine (0.78 g) as colorless crystals.

reactant | 7-(4-methylphenyl)-2,3,4,5-tetrahydro-1-benzooxepin-5-one | 1 g | CC1=CC=C(C=C1)C=1C=CC2=C(C(CCCO2)=O)C1 | C17H16O2
reactant | sodium borohydride | 0.3 g | [BH4-].[Na+]
reactant | water | O | H2O
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 7-(4-methylphenyl)-2,3-dihydro-1-benzooxepine | 0.78 g | CC1=CC=C(C=C1)C=1C=CC2=C(C=CCCO2)C1 | C17H16O
